### PR TITLE
[Merged by Bors] - feat: use `to_dual` for `HeytingAlgebra`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR adds `to_dual` for `HeytingAlgebra`, `BiheytingAlgebra`, `GeneralizedHeytingAlgebra`.

There is a bit of friction around dualizing `compl` to `hnot`, because this means that theorems about `compl` in boolean algebras will not be able to be translated nicely with `to_dual`. This should not be that many theorems, so this is acceptable.

See also https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Dualize.20sdiff.20and.20himp/with/599261487

Since we have `GeneralizedCoheytingAlgebra.toDistribLattice`, I removed `CoheytingAlgebra.toDistribLattice`.

Aligning the `Heyting` and `Coheyting` API is kind of awkward, because they are unfortunately quite different. One reason is that the arguments of `sup`/`inf` are often swapped in the dual version, which is not compatible with `to_dual`. I've worked around this with extensive use of `to_dual none`.

There are quite some lemmas that in my eyes seem unnecessary, such as `le_sup_sdiff_sup_sdiff`, but I haven't removed any in this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/BooleanAlgebra/Basic.lean [hunk 1]
```diff
@@ -356,7 +356,7 @@ lemma inf_sdiff_left_comm (a b c : α) : a ⊓ (b \ c) = b ⊓ (a \ c) := by
   simp_rw [← inf_sdiff_assoc, inf_comm]
 
 theorem inf_sdiff_distrib_left (a b c : α) : a ⊓ b \ c = (a ⊓ b) \ (a ⊓ c) := by
-  rw [sdiff_inf, sdiff_eq_bot_iff.2 inf_le_left, bot_sup_eq, inf_sdiff_assoc]
+  rw [sdiff_inf, (sdiff_eq_bot_iff (α := α)).2 inf_le_left, bot_sup_eq, inf_sdiff_assoc]
```
Comment (vihdzp) [inline Mathlib/Order/BooleanAlgebra/Basic.lean:355]: Huh, why is this suddenly needed?

File: Mathlib/Order/Heyting/Basic.lean [hunk 2]
```diff
@@ -172,14 +174,11 @@ attribute [instance 100] GeneralizedHeytingAlgebra.toOrderTop
...
--- See note [lower instance priority]
-instance (priority := 100) CoheytingAlgebra.toBoundedOrder [CoheytingAlgebra α] : BoundedOrder α :=
-  { ‹CoheytingAlgebra α› with }
+@[to_dual]
+instance (priority := 100) HeytingAlgebra.toBoundedOrder [HeytingAlgebra α] : BoundedOrder α where
 
 -- See note [lower instance priority]
+@[to_dual existing]
 instance (priority := 100) BiheytingAlgebra.toCoheytingAlgebra [BiheytingAlgebra α] :
     CoheytingAlgebra α :=
```
Comment (vihdzp) [inline Mathlib/Order/Heyting/Basic.lean]: Can you use `where` here too?

File: Mathlib/Order/Heyting/Basic.lean [hunk 3]
```diff
@@ -228,60 +227,78 @@ intuitionistic logic,- where `≤` can be interpreted as "validates", `⇨` as "
...
 
 /-- `(p → q) ∧ p ↔ q ∧ p` -/
-@[simp]
+@[to_dual (attr := simp)]
 theorem himp_inf_self (a b : α) : (a ⇨ b) ⊓ a = b ⊓ a := by rw [inf_comm, inf_himp, inf_comm]
 
 /-- The **deduction theorem** in the Heyting algebra model of intuitionistic logic:
 an implication holds iff the conclusion follows from the hypothesis. -/
-@[simp]
+@[to_dual (attr := simp)]
```
Comment (vihdzp) [inline Mathlib/Order/Heyting/Basic.lean:240]: Is there no interesting docstring to put on the dual?

File: Mathlib/Order/Heyting/Basic.lean [hunk 4]
```diff
@@ -228,60 +227,78 @@ intuitionistic logic,- where `≤` can be interpreted as "validates", `⇨` as "
...
 theorem himp_eq_top_iff : a ⇨ b = ⊤ ↔ a ≤ b := by rw [← top_le_iff, le_himp_iff, top_inf_eq]
 
 /-- `p → true`, `true → p ↔ p` -/
```
Comment (vihdzp) [inline Mathlib/Order/Heyting/Basic.lean]: Is this docstring worth having? I feel like the first half is just spelling out the theorem signature, and the second half is another theorem entirely.

File: Mathlib/Order/BooleanAlgebra/Basic.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Order/BooleanAlgebra/Basic.lean:355]: There is a combination of reasons why this didn't work.

For this application to work directly, the `≤` instances need to unify. If you know the type, `α`, then this works fine. If not, unifying the instances is more awkward. This worked only because the instance just so happened to go through `SemilatticeInf`. But now it goes through `SemilatticeSup`.

As a result, the rewrite proof has too many metavariables, and `rw` tries to rewrite in the wrong place.

Comment (JovanGerb) [reply Mathlib/Order/BooleanAlgebra/Basic.lean]: There is a combination of reasons why this didn't work.

For this application to work directly, the `≤` instances need to unify. If you know the type, `α`, then this works fine. If not, unifying the instances is more awkward. This worked only because the instance just so happened to go through `SemilatticeInf`. But now it goes through `SemilatticeSup`.

As a result, the rewrite proof has too many metavariables, and `rw` tries to rewrite in the wrong place.

File: Mathlib/Order/Heyting/Basic.lean (hunk 4 above)
Comment (JovanGerb) [reply Mathlib/Order/Heyting/Basic.lean]: I was also a bit surprised about these docstrings that just state the theorem again. Should I remove them since it is duplicate information (and apparently also sometimes wrong)?

File: Mathlib/Order/Heyting/Basic.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/Order/Heyting/Basic.lean]: No, it doesn't work, because they have separately defined `top_sdiff` and `sdiff_le_iff` fields. Arguably, `BiheytingAlgebra` should simply extend both `HeytingAlgebra` and `CoHeytingAlgebra` (I presume this didn't work back in lean 3).

File: Mathlib/Order/Heyting/Basic.lean (hunk 3 above)
Comment (JovanGerb) [reply Mathlib/Order/Heyting/Basic.lean:240]: Seemingly not.

File: Mathlib/Order/Heyting/Basic.lean (hunk 4 above)
Comment (JovanGerb) [reply Mathlib/Order/Heyting/Basic.lean]: I have now moved the doc-string to where it belongs.

File: Mathlib/Data/Finset/Lattice/Fold.lean [hunk 5]
```diff
@@ -411,10 +411,14 @@ theorem sup_himp_left (hs : s.Nonempty) (f : ι → α) (a : α) :
...
   @inf_sdiff_right αᵒᵈ _ _ _ hs _ _
 
-@[to_dual (attr := simp)]
+@[simp]
 protected theorem compl_sup (s : Finset ι) (f : ι → α) : (s.sup f)ᶜ = s.inf fun i => (f i)ᶜ :=
   map_finset_sup (OrderIso.compl α) _ _
 
+@[simp]
+protected theorem compl_inf (s : Finset ι) (f : ι → α) : (s.inf f)ᶜ = s.sup fun i => (f i)ᶜ :=
+  map_finset_inf (OrderIso.compl α) _ _
```
Comment (Vierkantor) [inline Mathlib/Data/Finset/Lattice/Fold.lean:416]: (Could you add a comment to the code explaining) why isn't this `@[to_dual]` anymore? Presumably because `compl` also gets dualized, right?

File: Mathlib/Order/Heyting/Basic.lean [hunk 6]
```diff
@@ -49,89 +49,39 @@ assert_not_exists RelIso
...
-variable {π : ι → Type*}
-
-instance [∀ i, HImp (π i)] : HImp (∀ i, π i) :=
-  ⟨fun a b i => a i ⇨ b i⟩
-
-instance [∀ i, HNot (π i)] : HNot (∀ i, π i) :=
-  ⟨fun a i => ￢a i⟩
-
-@[push ←]
-theorem himp_def [∀ i, HImp (π i)] (a b : ∀ i, π i) : a ⇨ b = fun i => a i ⇨ b i :=
```
Comment (Vierkantor) [inline Mathlib/Order/Heyting/Basic.lean:118]: (Note to reviewers: these `_def` and `_apply` lemmas moved to `Mathlib/Order/Basic.lean`.)

File: Mathlib/Order/Heyting/Basic.lean [hunk 7]
```diff
@@ -163,26 +113,17 @@ class CoheytingAlgebra (α : Type*) extends GeneralizedCoheytingAlgebra α, Orde
   top_sdiff (a : α) : ⊤ \ a = ￢a
 
 /-- A bi-Heyting algebra is a Heyting algebra that is also a co-Heyting algebra. -/
-class BiheytingAlgebra (α : Type*) extends HeytingAlgebra α, SDiff α, HNot α where
-  /-- `(· \ a)` is left adjoint to `(· ⊔ a)` -/
-  sdiff_le_iff (a b c : α) : a \ b ≤ c ↔ a ≤ b ⊔ c
-  /-- `⊤ \ a` is `￢a` -/
-  top_sdiff (a : α) : ⊤ \ a = ￢a
+class BiheytingAlgebra (α : Type*) extends HeytingAlgebra α, CoheytingAlgebra α where
```
Comment (Vierkantor) [inline Mathlib/Order/Heyting/Basic.lean:125]: Should this be `@[to_dual self]`? I'm not always sure when that is the right choice or not.

File: Mathlib/Order/Heyting/Basic.lean [hunk 8]
```diff
@@ -230,136 +171,171 @@ the same in this logic.
...
   himp_eq_top_iff.2 le_top
 
-@[simp]
+/-- `true → p ↔ p` -/
+@[to_dual (attr := simp) sdiff_bot]
 theorem top_himp : ⊤ ⇨ a = a :=
   eq_of_forall_le_iff fun b => by rw [le_himp_iff, inf_top_eq]
 
 /-- `p → q → r ↔ p ∧ q → r` -/
+@[to_dual none]
```
Comment (Vierkantor) [inline Mathlib/Order/Heyting/Basic.lean:254]: Could you add a module doc or comment, copying the explanation in the PR description why these `@[to_dual none]` attributes are needed? (It might give us the motivation to make the argument order more consistent.)

**Review by Vierkantor — APPROVED** [review]
Do you know why the Lean declaration diff says the instance `CoheytingAlgebra.toDistribLattice` got dropped?

Otherwise, everything looks quite good to me. Thanks!

bors d+

File: Mathlib/Order/Heyting/Basic.lean (hunk 7 above)
Comment (JovanGerb) [reply Mathlib/Order/Heyting/Basic.lean:125]: `@[to_dual self]` is only useful when the arguments need to be reordered. If a constant is translated to itself and its arguments are not reordered either, then we don't need any `to_dual` tag at all, since there is nothing to translate.

File: Mathlib/Data/Finset/Lattice/Fold.lean (hunk 5 above)
Comment (JovanGerb) [reply Mathlib/Data/Finset/Lattice/Fold.lean:416]: Indeed, `compl` now gets dualized to `hnot`. I don't think adding a comment just here makes sense. This issue arises for all lemmas involving `compl` on `BooleanAlgebra`.

**Comment by JovanGerb** [comment]
I've now added in the PR description that I removed `CoheytingAlgebra.toDistribLattice` because we have `GeneralizedCoheytingAlgebra.toDistribLattice`.

File: Mathlib/Data/Finset/Lattice/Fold.lean (hunk 5 above)
Comment (JovanGerb) [reply Mathlib/Data/Finset/Lattice/Fold.lean:416]: I think this kind of comment can be added to `BooleanAlgebra/Basic` once we use `to_dual` there.
